.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=22e-6 L=1e-6
M2 outfirststage in2 net_1 net_1 pmos W=22e-6 L=1e-6
M3 net_0 net_0 source_pmos source_pmos pmos W=1e-6 L=5e-6
M4 outfirststage net_0 source_pmos source_pmos pmos W=1e-6 L=5e-6
M5 net_2 bias_n_2b source_nmos source_nmos nmos W=1e-6 L=5e-6
M6 net_0 bias_n_2t net_2 net_2 nmos W=1e-6 L=5e-6
M7 net_5 bias_n_2b source_nmos source_nmos nmos W=1e-6 L=5e-6
M8 outfirststage bias_n_2t net_5 net_5 nmos W=1e-6 L=5e-6
M9 net_1 ibias source_pmos source_pmos pmos W=1e-6 L=2e-6
M10 net_7 outfirststage source_pmos source_pmos pmos W=1e-6 L=2e-6
M11 out bias_p_3 net_7 net_7 pmos W=4e-6 L=2e-6
M12 net_9 net_9 source_nmos source_nmos nmos W=3e-6 L=2e-6
M13 out net_10 net_9 net_9 nmos W=3e-6 L=2e-6
M14 net_10 net_10 bias_n_1m bias_n_1m nmos W=3e-6 L=2e-6
M15 bias_n_1m net_9 source_nmos source_nmos nmos W=3e-6 L=2e-6
M16 bias_n_2b bias_n_2b source_nmos source_nmos nmos W=1e-6 L=5e-6
M17 bias_n_2t bias_n_2t bias_n_2b bias_n_2b nmos W=1e-6 L=5e-6
M18 bias_p_3 bias_p_3 source_pmos source_pmos pmos W=1e-6 L=19e-6
M19 ibias ibias source_pmos source_pmos pmos W=1e-6 L=2e-6
M20 bias_n_2t ibias source_pmos source_pmos pmos W=1e-6 L=2e-6
M21 bias_p_3 bias_n_2b source_nmos source_nmos nmos W=1e-6 L=5e-6
M22 net_10 ibias source_pmos source_pmos pmos W=1e-6 L=2e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
